US04563477
Ethyl alpha-(N-pyrrolyl)-phenylacetate
52.8 g (0.24 mole) of ethyl phenylglycinate were dissolved in 136 ml of glacial acetic acid. Thereafter 39 g (0.24 mole) of 2,5-diethoxytetrahydrofuran were added over 10-15 minutes with stirring. The mixture was heated under reflux for one hour. After this time had elapsed, the mixture was allowed to cool and the major portion of the acetic acid was drawn off under reduced pressure. Finally, the residue was distilled under vacuum and the fraction distilling out at 115°-118° C. at 0.2 mm Hg was collected. The product obtained was first a colourless oil which crystallised on cooling, adopting a waxy aspect and weighing 46.5 g (70%). M.p. 51°-53° C. Centesimal composition: 73.31% C.; 6.08% N; 6.53% H. The IR spectrum in 0.5% KBr is illustrated in FIG. 1.

reactant | ethyl phenylglycinate | 0.24 mole, 52.8 g | C1(=CC=CC=C1)NCC(=O)OCC | C10H13NO2
reactant | 2,5-diethoxytetrahydrofuran | 0.24 mole, 39 g | C(C)OC1OC(CC1)OCC | C8H16O3
solvent | acetic acid | 136 ml | C(C)(=O)O | C2H4O2
product | Ethyl alpha-(N-pyrrolyl)-phenylacetate | N1(C=CC=C1)C(C(=O)OCC)C1=CC=CC=C1 | C14H15NO2
